US04777270
Methyl 4-t-Butyl-2,6-dimethylbenzoate
To 50 g (0.26 moles) of 4-t-butyl-2,6-dimethylbenzoic acid in 250 ml methylene chloride was added 25 ml (0.34 mole) of thionyl chloride at 25° C. After stirring overnight at 25° C. the solvent and remaining thionyl chloride were evaporated in vacuo. The resulting white solid was dissolved in 50 ml tetrahydrofuran and added dropwise to 250 ml of methanol containing 2 ml of pyridine. After heating the reaction mixture to reflux for 30 minutes the solvents were evaporated in vacuo and the residue was dissolved in 200 ml ethyl acetate and 100 ml of water was added. The organic phase was separated and washed with 100 ml saturated aqueous sodium bicarbonate, 50 ml water and 25 ml brine; then dried over anhydrous magnesium sulfate and evaporated to an oil. The oil was distilled in vacuo at 104°-8° C. at 1.2 mm of mercury to obtain 43 g (81% yield) of the title compound.

reactant | 4-t-butyl-2,6-dimethylbenzoic acid | 0.26 moles, 50 g | C(C)(C)(C)C1=CC(=C(C(=O)O)C(=C1)C)C | C13H18O2
reactant | thionyl chloride | 0.34 mole, 25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-t-Butyl-2,6-dimethylbenzoate | 43 g, 81% yield | C(C)(C)(C)C1=CC(=C(C(=O)OC)C(=C1)C)C | C14H20O2
